US05624935
3-Amino-6-methoxy-2-methylaminopyridine
A procedure similar to that described in Example 6 was repeated, except that 3.45 g of 6-methoxy-2-methylamino-3-nitropyridine (prepared as described in Preparation 67), 0.70 g of 10% w/w palladium-on-charcoal and 50 ml of dioxane were used, to give 2.66 g of the title compound having Rf=0.12 (on silica gel thin layer chromatography using a 1:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 6-methoxy-2-methylamino-3-nitropyridine | 3.45 g | COC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C7H9N3O3
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-Amino-6-methoxy-2-methylaminopyridine | 2.66 g | NC=1C(=NC(=CC1)OC)NC | C7H11N3O
